US04707479
(c) 4-(2-Benzylmercaptophenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide
10 mmoles of 2-benzylmercaptobenzaldehyde, 15 mmoles of nitroacetone and 10 mmoles of 3-aminocrotonic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide in 30 ml of isopropanol are heated at 60°-70° C. for 10 hours. The reaction mixture is concentrated and the residue is taken up in chloroform and chromatographed over silica gel using chloroform to which methanol is added. The product is recrystallized from isopropanol.

reactant | 2-benzylmercaptobenzaldehyde | 10 mmoles | C(C1=CC=CC=C1)SC1=C(C=O)C=CC=C1 | C14H12OS
reactant | nitroacetone | 15 mmoles | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | 3-aminocrotonic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide | 10 mmoles | O=C1CCC(=NN1)C1=CC=C(C=C1)NC(\C=C(\C)/N)=O | C14H16N4O2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(2-Benzylmercaptophenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide | O=C1CCC(=NN1)C1=CC=C(C=C1)NC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)SCC1=CC=CC=C1)[N+](=O)[O-])C)C | C31H29N5O4S
